US07718675B2
a) tert-Butyl {1(S)-(2-acetylamino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate
The solution of 0.040 g of tert-butyl {1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate in 2 ml of dichloromethane is admixed successively with 0.007 ml of pyridine and 0.011 ml of acetic anhydride and stirred at room temperature over 1 hour. The reaction solution is admixed with water and extracted with tert-butyl methyl ether (2×). The combined organic phases are washed with 1M HCl, water and brine, dried over sodium sulphate and concentrated by evaporation. The title compound is obtained from the residue by means of flash chromatography (SiO2 60F) as a colourless oil. Rf=0.37 (200:20:1 dichloromethane-methanol-25% conc. ammonia); Rt=17.25 (gradient II).

reactant | tert-butyl {1(S)-(2-amino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | 0.040 g | NC[C@H](O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C25H44N2O6
reactant | pyridine | 0.007 ml | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 0.011 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | tert-Butyl {1(S)-(2-acetylamino-1(S)-hydroxyethyl)-3(S)-[4-methoxy-3-(3-methoxypropoxy)benzyl]-4-methylpentyl}carbamate | C(C)(=O)NC[C@H](O)[C@H](C[C@@H](C(C)C)CC1=CC(=C(C=C1)OC)OCCCOC)NC(OC(C)(C)C)=O | C27H46N2O7
